US05783605
Ethyl phenylacetate (5-2)
I-3. Other helper inducers we have so for discovered such as 2,4-dichlorophenyl acetic acid, and indole-3-acetic acid were obtained from Sigma Chemical Company.

reactant | 2,4-dichlorophenyl acetic acid | ClC1=C(C=CC(=C1)Cl)CC(=O)O | C8H6Cl2O2
reactant | indole-3-acetic acid | N1C=C(C2=CC=CC=C12)CC(=O)O | C10H9NO2
product | Ethyl phenylacetate | C1(=CC=CC=C1)CC(=O)OCC | C10H12O2
